US05039672
4. 1'-hydroxy-2,3-dihydro-6-fluoro-spiro-(4H-1-benzopyran-4,3'-pyrrolidine)-2'one
A solution of 1'-benzyloxy-2,3-dihydro-6-fluoro-spiro-(4H-1-benzopyran-4,3'-pyrrolidine)-2'-one (1.4 g) in methanol (75 mL) containing 10% palladium on carbon (300 mg) was stirred vigorously under hydrogen gas (1 atm). After 18 hours, more palladium on carbon (300 mg) was added, and the mixture was then filtered after being stirred under hydrogen gas for a further 20 minutes. The filtrate was concentrated in vacuo, and the residue purified by silica gel chromatography, eluting with ethyl acetate, to afford the title compound as a white crystalline solid, 780 mg, m.p. 208°-209° C.

reactant | 1'-benzyloxy-2,3-dihydro-6-fluoro-spiro-(4H-1-benzopyran-4,3'-pyrrolidine)-2'-one | 1.4 g | C(C1=CC=CC=C1)ON1C(C2(CC1)CCOC1=C2C=C(C=C1)F)=O | C19H18FNO3
solvent | methanol | 75 mL | CO | CH4O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 1'-hydroxy-2,3-dihydro-6-fluoro-spiro-(4H-1-benzopyran-4,3'-pyrrolidine)-2'one | ON1C(C2(CC1)CCOC1=C2C=C(C=C1)F)=O | C12H12FNO3
